US06720463B1
Isobutyl (R)-(+)-2-(1-n-Butoxyethoxy)propionate
A catalytic amount of pyridinium para-toluenesulfonate was added to 29.2 g (0.2 mole) of isobutyl (R)-(+)-lactate and 22.0 g (0.22 mole) of n-butyl vinyl ether. The resulting mixture was stirred at room temperature for 4 hours to give rise to a reaction. Thereto was added 100 ml of ethyl acetate, followed by washing with 100 ml of a saturated aqueous sodium hydrogen carbonate solution, 40 ml of water and 40 ml of a saturated aqueous sodium chloride solution in this order. The washed material was dried over anhydrous sodium sulfate and then subjected to vacuum distillation to remove the solvent, whereby was obtained 46.8 g (yield: 94.9%) of an oily title compound (diastereomixture).

reactant | pyridinium para-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | isobutyl (R)-(+)-lactate | 0.2 mole, 29.2 g | C([C@H](O)C)(=O)OCC(C)C | C7H14O3
reactant | n-butyl vinyl ether | 0.22 mole, 22.0 g | C(=C)OCCCC | C6H12O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Isobutyl (R)-(+)-2-(1-n-Butoxyethoxy)propionate | 46.8 g, yield: 94.9% | C(CCC)OC(C)O[C@@H](C(=O)OCC(C)C)C | C13H26O4
